US07446102B2
(8S,11S,14S)-14-Amino-N-((1S)-3-amino-1-{[(2-aminoethyl)amino]carbonyl}propyl)-11-(3-aminopropyl)-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaene-8-carboxamide tetrahydrochloride
15 mg (0.019 mmol) of tert-butyl{3-[(8S,11S,14S)-8-{[((1S)-3-amino-1-{[(2-aminoethyl)amino]carbonyl}propyl)amino]carbonyl}-14-[(tert-butoxycarbonyl)amino]-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaen-11-yl]propyl}carbamate bis(hydroacetate) (Example 207A) are added into 1 ml of a 4N solution of hydrogen chloride in dioxane and stirred at RT for 20 min. The reaction solution is concentrated, coevaporated with dichloromethane several times and dried under high vacuum.

reactant | tert-butyl{3-[(8S,11S,14S)-8-{[((1S)-3-amino-1-{[(2-aminoethyl)amino]carbonyl}propyl)amino]carbonyl}-14-[(tert-butoxycarbonyl)amino]-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaen-11-yl]propyl}carbamate | 0.019 mmol, 15 mg | C(C)(C)(C)OC(NCCC[C@H]1C(N[C@@H](CC2=C(C=CC(C=3C=CC(=C(C[C@@H](C(N1)=O)NC(=O)OC(C)(C)C)C3)O)=C2)O)C(=O)N[C@@H](CCN)C(=O)NCCN)=O)=O | C39H58N8O10
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (8S,11S,14S)-14-Amino-N-((1S)-3-amino-1-{[(2-aminoethyl)amino]carbonyl}propyl)-11-(3-aminopropyl)-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaene-8-carboxamide tetrahydrochloride | Cl.Cl.Cl.Cl.N[C@@H]1C(N[C@H](C(N[C@@H](CC2=C(C=CC(C=3C=CC(=C(C1)C3)O)=C2)O)C(=O)N[C@@H](CCN)C(=O)NCCN)=O)CCCN)=O | InChI=1S/C29H42N8O6.4ClH/c30-8-1-2-21-28(42)37-23(29(43)36-22(7-9-31)27(41)34-11-10-32)15-19-13-17(4-6-25(19)39)16-3-5-24(38)18(12-16)14-20(33)26(40)35-21;;;;/h3-6,12-13,20-23,38-39H,1-2,7-11,14-15,30-33H2,(H,34,41)(H,35,40)(H,36,43)(H,37,42);4*1H/t20-,21-,22-,23-;;;;/m0..../s1
